US06716859B2
A mixture of phenol (5.64 g, 60 mmol) and potassium t-butoxide (6.74 g, 60 mmol) in 50 mL 1,4-dioxane was stirred at room temperature for 0.5 h. To the mixture was added 2-chloro-5-nitro-benzoic acid methyl ester (10.78 g, 50 mmol) and the mixture was refluxed overnight. The solvent was evaporated and the residue was purified by chromatography with EtOAc:hexanes, 1:4, as eluant, yielding (11.739 g, 86%) 5-nitro-2-phenoxy-benzoic acid methyl ester. A mixture of 5-nitro-2-phenoxy-benzoic acid methyl ester (2.0 g, 7.32 mmol) in 30 mL ethanol and Pd/C (200 mg) were hydrogenated at 40 psi overnight to yield 5-amino-2-phenoxy-benzoic acid methyl ester (1.672 g, 94%). A mixture of 5-amino-2-phenoxy-benzoic acid methyl ester (0.95 g, 3.9 mmol) and hydrazine (4 mL, 80%) was refluxed for 4 h to yield 5-amino-2-phenoxy-benzoic acid hydrazide (0.722 g, 76%). The title compound was prepared from 5-amino-2-phenoxy-benzoic acid hydrazide and 3-trifluoromethyl-benzaldehyde by a procedure similar to Example 22. 1H NMR (CDCl3): 10.81 (s, 1H), 8.15 (s, 1H), 8.0 (s, 1H), 7.98 (d, J=7.5 Hz, 1H), 7.66 (s, 1H), 7.64 (d, J=7.5 Hz, 1H), 7.53 (t, J=7.2 Hz, 1H), 7.40 (m, 2H), 7.19 (t, J=7.5 Hz, 1H), 7.07 (d, J=7.8, 2H), 6.80 (m, 2H).

reactant | 5-nitro-2-phenoxy-benzoic acid methyl ester | 7.32 mmol, 2.0 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])OC1=CC=CC=C1)=O | C14H11NO5
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 5-amino-2-phenoxy-benzoic acid methyl ester | 1.672 g, 94% | COC(C1=C(C=CC(=C1)N)OC1=CC=CC=C1)=O | C14H13NO3
